US08623870B2
A solution of 184 mg (0.504 mmol) of 6-(3,5-difluorophenyl)-2-(3-oxazol-2-ylbenzyl)-2H-pyridazin-3-one, 108 mg (0.605 mmol) of N-bromosuccinimide and 6.3 mg (0.026 mmol) of benzoyl peroxide in 1 ml of chlorobenzene is stirred at 80° C. for 42 hours. The reaction mixture is evaporated and chromatographed on a silica-gel column with dichloromethane/methanol as eluent, giving 2-[3-(5-bromooxazol-2-yl)benzyl]-6-(3,5-difluorophenyl)-2H-pyridazin-3-one as yellowish crystals; ESI 444, 446.

reactant | 6-(3,5-difluorophenyl)-2-(3-oxazol-2-ylbenzyl)-2H-pyridazin-3-one | 0.504 mmol, 184 mg | FC=1C=C(C=C(C1)F)C=1C=CC(N(N1)CC1=CC(=CC=C1)C=1OC=CN1)=O | C20H13F2N3O2
reactant | N-bromosuccinimide | 0.605 mmol, 108 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.026 mmol, 6.3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chlorobenzene | 1 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-[3-(5-bromooxazol-2-yl)benzyl]-6-(3,5-difluorophenyl)-2H-pyridazin-3-one | BrC1=CN=C(O1)C=1C=C(CN2N=C(C=CC2=O)C2=CC(=CC(=C2)F)F)C=CC1 | C20H12BrF2N3O2
